US05547950
(S)-N-[[3-[3,5-difluoro-4-[4-(2-hydroxyethyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A solution of (S)-N-[[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (0.400 g, 0.881 mmol) in dichloromethane (3 mL) was treated with trifluoroacetic acid (7 mL) at room temperature for 1 h. The reaction mixture was concentrated in vacuo and the resultant amber syrup combined with 2-chloroethanol (354 μL, 5.27 mmol), potassium carbonate (0.730 g, 5.27 mmol), and acetonitrile (20 mL) and the mixture heated to reflux for 24 h. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The crude product was chromatographed over silica gel (10 g), eluting with 1%, 3%, and then 6% methanol/chloroform, to afford, after concentration of appropriate fractions, 0.067 g (19%) of the title compound as an off-white solid with mp 172°-174° C.

reactant | (S)-N-[[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.881 mmol, 0.400 g | FC=1C=C(C=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)F)N1C(O[C@H](C1)CNC(C)=O)=O | C21H28F2N4O5
reactant | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-chloroethanol | 5.27 mmol, 354 μL | ClCCO | C2H5ClO
reactant | potassium carbonate | 5.27 mmol, 0.730 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-N-[[3-[3,5-difluoro-4-[4-(2-hydroxyethyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.067 g, 19% | FC=1C=C(C=C(C1N1CCN(CC1)CCO)F)N1C(O[C@H](C1)CNC(C)=O)=O | C18H24F2N4O4
